US06313094B1
[Process 1] Boc-Thz-NH-tBu
In a DMF solution containing 0.10 g of N-(t-butoxy-carbonyl)-1,3-thiazolidine-4-carboxylic acid, 45 μl of tert-butylamine, 66 mg of HOBt and 98 mg of EDC hydrochloride were added under ice cooling and the resultant mixture was stirred for 14 hr. The reaction mixture was treated similarly to that in Example 34 (Process 3) to give 90 mg of the title compound.

reactant | N-(t-butoxy-carbonyl)-1,3-thiazolidine-4-carboxylic acid | 0.10 g | C(C)(C)(C)OC(=O)N1CSCC1C(=O)O | C9H15NO4S
reactant | tert-butylamine | 45 μl | C(C)(C)(C)N | C4H11N
reactant | HOBt | 66 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC hydrochloride | 98 mg | CCN=C=NCCCN(C)C.Cl
solvent | DMF | CN(C)C=O | C3H7NO
product | Boc-Thz-NH-tBu | 90 mg | N1([C@H](C(=O)NC(C)(C)C)CSC1)C(=O)OC(C)(C)C | C13H24N2O3S
